US06110933
To a solution of 3-hydroxydodecanoic acid (0.26 g) in tetrahydrofuran (4 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.18 g) and 1-hydroxybenzotriazole (0.24 g). After stirring for 30 minutes, 28% ammonium hydroxide (0.17 ml) was added and the mixture was stirred at room temperature overnight. Then, the mixture was diluted with ethyl acetate (100 ml) and washed with 0.1 N-hydrochloric acid (100 ml×2), saturated sodium bicarbonate (50 ml), and brine (50 ml). After drying over magnesium sulfate and evaporation, the residue was recrystallized from isopropyl alcohol (1 ml) to give 3-hydroxydodecanamide (0.20 g).

reactant | 3-hydroxydodecanoic acid | 0.26 g | OC(CC(=O)O)CCCCCCCCC | C12H24O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.18 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.24 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonium hydroxide | 0.17 ml | [OH-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-hydroxydodecanamide | 0.20 g | OC(CC(=O)N)CCCCCCCCC | C12H25NO2
